US07935815B2
Synthesis of 8-(3-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine-8-carbaldehyde oxime
Sodium acetate (58.7 mg) and hydroxylammonium chloride (49.8 mg) were added to a solution of 8-(3-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine-8-carbaldehyde (164 mg) in ethanol (10 mL), and the reaction solution was stirred at room temperature for five hours. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 169 mg of the title compound. The property value of the compound is as follows.

reactant | Sodium acetate | 58.7 mg | C(C)(=O)[O-].[Na+]
reactant | hydroxylammonium chloride | 49.8 mg | [Cl-].O[NH3+]
reactant | 8-(3-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine-8-carbaldehyde | 164 mg | FC=1C=C(C=CC1)C1(C=2N(CCC1)N=C(N2)\C=C\C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C=O | C26H24FN5O2
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-(3-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine-8-carbaldehyde oxime | 169 mg | FC=1C=C(C=CC1)C1(C=2N(CCC1)N=C(N2)\C=C\C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C=NO | C26H25FN6O2
